US07470700B2
2-Bromomethyl-thiophene-3-carbonitrile
2-Methyl-thiophene-3-carbonitrile [see Beaton, et al.; Tetrahedron Lett. 39, 10, 1998, 1227-1230] (1.36 g, 11 mmol), N-bromosuccinimide (2.56 g, 14.4 mmol), and acatalytic amount of benzoyl peroxide were stirred in benzene (30 mL) at 80° C. for 2h. The solution was diluted with EtOAc, washed with sat. NaHCO3 and brine, dried (MgSO4), and concentrated in vacuo. Purification by silica gel chromatography (10% EtOAc/hexanes) gave 1.03 g (46%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 7.39 (d, 1H, J=5.6 Hz), 7.17 (d, 1H, J=5.6 Hz), 4.79 (s, 2H).

reactant | 2-Methyl-thiophene-3-carbonitrile | 11 mmol, 1.36 g | CC=1SC=CC1C#N | C6H5NS
reactant | N-bromosuccinimide | 14.4 mmol, 2.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Bromomethyl-thiophene-3-carbonitrile | 1.03 g, 46% | BrCC=1SC=CC1C#N | C6H4BrNS
